US06599917B1
d) 3-(2-Phenyl-6-morpholino-3-pyridyl)ethynyl-3-quinuclidinol
A mixture of 500 mg of 2-phenyl-6-morpholino-3-iodopyridine, 230 mg of 3-ethynyl-3-quinuclidinol, 79 mg of tetrakis(triphenylphosphine)palladium(0), 1.3 mg of cuprous iodide, 0.57 ml of triethylamine and 1 ml of N,N-dimethylformamide was heated under stirring for 4 hours in an oil bath kept at 75° C. in a nitrogen atmosphere. The mixture was extracted by adding aqueous dilute ammonia and ethyl acetate thereto, and the organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to NH-silica gel column chromatography, and eluted with 50% ethyl acetate/hexane, ethyl acetate and then 2.5% methanol/ethyl acetate, and crystallized from ethyl acetate, to give 296 mg of the target compound.

reactant | 2-phenyl-6-morpholino-3-iodopyridine | 500 mg | C1(=CC=CC=C1)C1=NC(=CC=C1I)N1CCOCC1 | C15H15IN2O
reactant | 3-ethynyl-3-quinuclidinol | 230 mg | C(#C)C1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 0.57 ml | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 79 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-(2-Phenyl-6-morpholino-3-pyridyl)ethynyl-3-quinuclidinol | 296 mg | C1(=CC=CC=C1)C1=NC(=CC=C1C#CC1(CN2CCC1CC2)O)N2CCOCC2 | C24H27N3O2
